US05723647
Synthesis of O-benzyl N-(4-bromo-2-fluorobenzyl)carbamate
Anhydrous and amine-free DMF (180 ml) and benzyl alcohol (28 ml) and KOCN (0.247 mol, 20 g) are charged into a 500 ml 2-neck round bottom flask having a reflux condenser and drying tube. A solution of 4-bromo-2-fluorobenzyl bromide (0.075 mol, 20 g) in DMF (20 ml) is added rapidly (in the course of 1 min) at room temperature to the stirred reaction mixture by means of a dropping funnel. The resulting suspension is subsequently heated with stirring to approximately 110° C. and further stirred at this temperature for approximately 1.5 h. The mixture is then cooled to room temperature. The salt present in the reaction mixture is filtered off by suction via a frit. The solvent and excess benzyl alcohol are removed from the filtrate in vacuo. The light yellow oily residue is cooled with ice for crystallization. The bright crystalline mass produced is washed with water, filtered and dried. Yield: 23.2 g (:91.5% of theory) M.p.: 82°-84° C. GC/MS: M+ =337, IR in KBr [cm-1 ]: 3342 (m) N--H, 1689 (s) C=O, 1535 (m) NH--C, 1276 (m) C--O--C

reactant | benzyl alcohol | 28 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | KOCN | 0.247 mol, 20 g | O([K])C#N
reactant | 4-bromo-2-fluorobenzyl bromide | 0.075 mol, 20 g | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | O-benzyl N-(4-bromo-2-fluorobenzyl)carbamate | BrC1=CC(=C(CNC(OCC2=CC=CC=C2)=O)C=C1)F | C15H13BrFNO2
